US07592358B2
1.1b. 2-(2-methyl-4-trimethylsilanylethynylphenoxy)ethanol
31 mg (0.160 mmol) of CuI was added under argon to a degassed solution of 2:225 g (8.000 mmol) of 2-(4-iodo-2-methylphenoxy)ethanol, 1.22 mL (8.80 mmol) of trimethylsilylacetylene, 185 mg (0.160 mmol) of tetrakis(triphenylphosphane)palladium, and 2.38 mL (24.00 mmol) of piperidine in 50 mL of THF and the mixture was stirred for 1 hour at RT. The reaction mixture was diluted with water and the aqueous phase was exhaustively extracted with EtOAc. The combined organic phases were washed with saturated aqueous NaCl solution, dried over sodium sulfate, and evaporated down in vacuo. Purification of the crude product by column chromatography (silica gel, cyc/EtOAc 2:1) yielded light brown crystals. Yield: 1.70 g (86% of theoretical); C14H20O2Si (M=248.393); calc.: molpeak (M+H)+: 249; found: molpeak (M+H)+: 249; Rf value: 0.24 (silica gel, cyc/EtOAc 2:1).

reactant | 2-(4-iodo-2-methylphenoxy)ethanol | 8.000 mmol, 225 g | IC1=CC(=C(OCCO)C=C1)C | C9H11IO2
reactant | trimethylsilylacetylene | 8.80 mmol, 1.22 mL | C[Si](C)(C)C#C | C5H10Si
reactant | piperidine | 24.00 mmol, 2.38 mL | N1CCCCC1 | C5H11N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | CuI | 0.160 mmol, 31 mg | [Cu]I
product | 2-(2-methyl-4-trimethylsilanylethynylphenoxy)ethanol | CC1=C(OCCO)C=CC(=C1)C#C[Si](C)(C)C | C14H20O2Si
